US04775675
5,5-Dimethyl-2-(4-methylphenyl)-thiazolidine-4(S)-carboxylic acid
A solution containing 1.50 g (10 mmoles) of D-penicillamine and 1.18 ml (10 mmoles) of 4-methylbenzaldehyde in 30 ml of 30% methanol is stirred for 1 hour. The precipitated crystals are filtered out and washed with 30% methanol to give the crude title acid in a yield of 2.25 g (89.5%) which can be recrystallized from methanol by adding water, m.p.: 89°-90° C., [α]D =+53.5 (c=0.784, dimethylsulphoxide).

reactant | D-penicillamine | 10 mmoles, 1.50 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | 4-methylbenzaldehyde | 10 mmoles, 1.18 ml | CC1=CC=C(C=O)C=C1 | C8H8O
solvent | methanol | 30 ml | CO | CH4O
product | 5,5-Dimethyl-2-(4-methylphenyl)-thiazolidine-4(S)-carboxylic acid | CC1([C@@H](NC(S1)C1=CC=C(C=C1)C)C(=O)O)C | C13H17NO2S
